US06015911
2. Preparation of 1,2,3-Trichloro-4-methylsulfonylbenzene
A mixture of 133 g (1.38 mol) of methanesulfonic acid and 67 g (0.56 mol) of thionyl chloride was heated to reflux with stirring for one hour. The temperature increased from 50° C. to 160° C. as the reaction to form methanesulfonic acid anhydride progressed. The resulting mixture was cooled to below 50° C. and then 50.0 g (0.28 mol) of 1,2,3-trichlorobenzene and 4.2 g (0.028 mol) of trifluoromethanesulfonic acid were added. This mixture was heated with stirring and allowed to react at 140° C. for 18 hours and at 160° C. for 2 hours. The resulting mixture solidified on cooling. It was taken up in 600 mL of dichloromethane and the resulting solution was washed with 2×100 mL of water, 100 mL of 1 M aqueous sodium bicarbonate solution, and 100 mL of water, dried over sodium sulfate, and concentrated by evaporation under reduced pressure to obtain 58.5 g of a 9:1 mixture of the title compound and its isomer. This was recrystallized from ethanol to obtain 46 g (63 percent of theory) of the title compound as a white solid melting at 159-160° C. The structure was confirmed by its 1H NMR spectrum (CDCl3): 8.02(d, 1H, J=8.6 Hz), 7.60(d, 1H, 8.7 Hz), 3.28(s, 3H) and its 13C NMR spectrum (CDCl3): 140.1, 138.5, 134.6, 132.8, 126.7, 42.6.

reactant | 1,2,3-trichlorobenzene | 0.28 mol, 50.0 g | ClC1=C(C(=CC=C1)Cl)Cl | C6H3Cl3
reactant | trifluoromethanesulfonic acid | 0.028 mol, 4.2 g | FC(S(=O)(=O)O)(F)F | CHF3O3S
solvent | dichloromethane | 600 mL | ClCCl | CH2Cl2
product | 1,2,3-Trichloro-4-methylsulfonylbenzene | ClC1=C(C(=C(C=C1)S(=O)(=O)C)Cl)Cl | C7H5Cl3O2S
